US07504508B2
(2S,4R)-N-(4-chloro-phenyl)-N-[1-(3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (G-6)
6-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid ethyl ester was dissolved in methylene chloride (3 mL) and iodotrimethylsilane (1 mL). After 4 days, the reaction was quenched with sat. aq. NaHCO3. The residue was partitioned between methylene chloride and water, then extracted three times with methylene chloride, dried over MgSO4, filtered and concentrated. The crude residue was purified by silica gel chromatography (ethyl acetate) to afford the product.

reactant | 6-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid ethyl ester | C(C)OC(=O)N1CCOC2=C1C=C(C=C2)C(=O)N2C(CC(C1=CC=CC=C21)N(C2=CC=C(C=C2)Cl)C(C)=O)C | C30H30ClN3O5
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | iodotrimethylsilane | 1 mL | I[Si](C)(C)C | C3H9ISi
product | (2S,4R)-N-(4-chloro-phenyl)-N-[1-(3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C=1C=CC2=C(NCCO2)C1)C | C27H26ClN3O3
